US04803280
A solution of 120 g of dry pyridine, 103.2 g of piperidine and 1.5 liters of dry ether was stirred vigorously as 215.7 g of freshly distilled 4-chlorophenyl acetyl chloride in 250 ml of ether was added dropwise. After 4 hours the mixture was diluted with one liter of water and the organic phase collected. The aqueous phase was extracted with ether and the ether phases were combined, washed successively with 0.1N hydrochloric acid twice, 5% sodium hydroxide twice, saturated sodium chloride twice, dried and concentrated in vacuo. The residual oil was taken up in dichloromethane and percolated through a bed of neutral alumina with additional solvent. The resulting oil was crystallized from carbon tetrachloride:hexane (1:9), giving 243 g of N-(4-chlorophenylacetyl)piperidine as yellow crystals, mp 85°-85.5° C. A mixture of 200 g of N-(4-chlorophenylacetyl)piperidine, 94 g of phosphorous pentasulfide and 750 ml of pyridine was heated at reflux with vigorous stirring for 18 hours, then cooled and concentrated in vacuo. The residue was taken up in 1.8 liters of water, heated at 50° C. for 30 minutes, cooled and exhaustively extracted with ether. The ether extracts were combined, washed successively with water, 5% hydrochloric acid twice and saturated sodium chloride and dried. The solution was percolated through a bed of neutral alumina followed by elution with ether. The resulting oil was crystallized twice from methylcyclohexane, giving 100 g of N-(4-chlorophenylthioacetyl)piperidine as orange crystals, mp 82.5°-83.5° C.

reactant | pyridine | 120 g | N1=CC=CC=C1 | C5H5N
reactant | piperidine | 103.2 g | N1CCCCC1 | C5H11N
reactant | 4-chlorophenyl acetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | water | one liter | O | H2O
solvent | ether | 1.5 liters | CCOCC | C4H10O
product | N-(4-chlorophenylacetyl)piperidine | 243 g | ClC1=CC=C(C=C1)CC(=O)N1CCCCC1 | C13H16ClNO
